US04110337
(c) 2-Methyl-(2'-amino-5'-chloranilino)-propionic acid
Using a one-liter autoclave, 53.4 g (0.206 mol) of 2-methyl-(5'-chloro-2'-nitroanilino)-propionic acid in solution in 500 ml of tetrahydrofuran are hydrogenated in the presence of 17 g of Raney nickel. Hydrogen pressure in the cold: 120 kg. Temperature 60° C. Duration: 1 hour. Pressure drop:

reactant | 2-methyl-(5'-chloro-2'-nitroanilino)-propionic acid | 0.206 mol, 53.4 g | CC(C(=O)O)(C)NC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C10H11ClN2O4
reactant | Hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 17 g | [Ni] | Ni
product | 2-Methyl-(2'-amino-5'-chloranilino)-propionic acid | CC(C(=O)O)(C)NC1=C(C=CC(=C1)Cl)N | C10H13ClN2O2
